US07718663B2
N4-[(1S,2R)-2-aminocyclohexyl]-6-methylquinazoline-2,4-diamine
To a solution of 9.37 g of tert-butyl (1R,2S)-2-({2-[(4-methoxybenzyl)amino]-6-methylquinazolin-4-yl}amino)cyclohexylcarbamate in 30 ml of methylene chloride, 95 ml of trifluoroacetic acid was added under ice cooling, and then the mixture was stirred for 72 hours. The reaction solution was concentrated, neutralized with a saturated sodium hydrogencarbonate solution, extracted with chloroform:methanol=10:1 and then dried. The solvent was distilled off and the residue was purified by Fuji Silysia NH silica gel column chromatography (chloroform:methanol=50:1) to obtain 4.60 g of the desirable compound.

reactant | tert-butyl (1R,2S)-2-({2-[(4-methoxybenzyl)amino]-6-methylquinazolin-4-yl}amino)cyclohexylcarbamate | 9.37 g | COC1=CC=C(CNC2=NC3=CC=C(C=C3C(=N2)N[C@@H]2[C@@H](CCCC2)NC(OC(C)(C)C)=O)C)C=C1 | C28H37N5O3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 95 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N4-[(1S,2R)-2-aminocyclohexyl]-6-methylquinazoline-2,4-diamine | 4.60 g | N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)N | C15H21N5
